US04695575
To a stirred mixture of 5.5 parts of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidineethanamine and 90 parts of tetrahydrofuran was added dropwise a solution of 3.8 parts of methyl 2-isothiocyanatobenzenecarboxylate in 18 parts of tetrahydrofuran (exothermic reaction). Upon completion, stirring was continued for 1 hour. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and recrytallized from methanol. The product was filtered off and dried, yielding 3.6 parts (46%) of 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-2,3-dihydro-2-thioxo-4(1H)-quinazolinone; mp. 218.2° C. (460).

reactant | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidineethanamine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCN | C22H27FN4
reactant | methyl 2-isothiocyanatobenzenecarboxylate | N(=C=S)C1=C(C=CC=C1)C(=O)OC | C9H7NO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-2,3-dihydro-2-thioxo-4(1H)-quinazolinone | 46% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCN2C(NC1=CC=CC=C1C2=O)=S | C30H30FN5OS
